US05189211
To a mixture of 4-mercaptophenol (3.78 g), potassium carbonate (8.2 g) and N,N-dimethylformamide (40 ml) was added dropwise under ice cooling a solution of N-(2-bromoethyl)phthalimide (7.62 g) in N,N-dimethylformamide (50 ml). The reaction mixture was stirred at room temperature for 16 hours and poured into 3% hydrochloric acid (220 ml), and the resulting crystals were collected by filtration and dried to give N-[2-(4-hydroxyphenylthio)ethyl]phthalimide (9.1 g).

reactant | 4-mercaptophenol | 3.78 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | potassium carbonate | 8.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-bromoethyl)phthalimide | 7.62 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | hydrochloric acid | 220 ml | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-[2-(4-hydroxyphenylthio)ethyl]phthalimide | 9.1 g | OC1=CC=C(C=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H13NO3S
